### PR TITLE
feat: condFDiv_compProd_meas

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add `condFDiv_compProd_meas`, adapting the proof from the analogous lemma for KL.
Add the auxiliary lemmas `condFDiv_compProd_meas_eq_top`, `condFDiv_kernel_fst'_integrable_iff`, `condFDiv_kernel_snd'_integrable_iff`.

Depends on #34.

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Can you merge master to reduce the diff? I think the changes of #34 are still in there.

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 1]
```diff
@@ -685,6 +685,220 @@ lemma fDiv_compProd_right [CountablyGenerated β]
...
+    [IsMarkovKernel η] (h_ac : derivAtTop f = ⊤ → ∀ᵐ a ∂μ, ∀ᵐ b ∂ξ a, κ (a, b) ≪ η (a, b))
+    (h_int : ∀ᵐ a ∂μ, ∀ᵐ b ∂ξ a, Integrable (fun x ↦ f ((∂κ (a, b)/∂η (a, b)) x).toReal) (η (a, b)))
+    (h_int2 : ∀ᵐ a ∂μ, Integrable (fun b ↦ ∫ x, f ((∂κ (a, b)/∂η (a, b)) x).toReal ∂η (a, b)) (ξ a))
+    (hf_meas : StronglyMeasurable f) (hf_cvx : ConvexOn ℝ (Set.Ici 0) f)
+    (hf_cont : ContinuousOn f (Set.Ici 0)) (hf_one : f 1 = 0) :
+    Integrable (fun a ↦ (condFDiv f (kernel.snd' κ a) (kernel.snd' η a) (ξ a)).toReal) μ ↔
+      Integrable (fun a ↦ ∫ b, |∫ x, f ((∂κ (a, b)/∂η (a, b)) x).toReal ∂η (a, b)| ∂ξ a) μ := by
+  have h_ae_eq :
+      (fun x ↦ EReal.toReal (condFDiv f (kernel.snd' κ x) (kernel.snd' η x) (ξ x)))
+        =ᵐ[μ] fun a ↦ ∫ b, (fDiv f (κ (a, b)) (η (a, b))).toReal ∂ξ a := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: This could be a separate lemma

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 2]
```diff
@@ -685,6 +685,220 @@ lemma fDiv_compProd_right [CountablyGenerated β]
...
+    simp_rw [← kernel.snd'_apply] at h_int2 h_int h_ac ⊢
+    rw [← eventually_all] at h_ac
+    filter_upwards [h_ac, h_int, h_int2] with a ha_ac ha_int ha_int2
+    rw [condFDiv_eq ha_int ha_int2 ha_ac, EReal.toReal_coe]
+  have h_ereal_add : ∀ᵐ a ∂μ, ∀ᵐ b ∂ξ a, ∫ x, f ((∂κ (a, b)/∂η (a, b)) x).toReal ∂η (a, b)
+      + (derivAtTop f * ((κ (a, b)).singularPart (η (a, b)) Set.univ)).toReal
+      = (fDiv f (κ (a, b)) (η (a, b))).toReal := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: Please make a new lemma for this as well (and reverse the equality). Also `(derivAtTop f).toReal * ((κ (a, b)).singularPart (η (a, b)) Set.univ).toReal` could be better than `(derivAtTop f * ((κ (a, b)).singularPart (η (a, b)) Set.univ)).toReal`? It looks like when you apply the lemma the first thing you do is apply `EReal.toReal_mul`.

**Review by RemyDegenne — COMMENTED** [review]
Can you add a few comments in the proof of `condFDiv_kernel_snd'_integrable_iff` to describe the proof strategy? It feels like it should be shorter (possibly thanks to new lemmas that could be extracted).

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 3]
```diff
@@ -458,7 +458,7 @@ lemma condFDiv_zero_left [IsFiniteMeasure μ] [IsFiniteKernel η] :
     apply MeasureTheory.Integrable.const_mul
     exact kernel.IsFiniteKernel.integrable μ η MeasurableSet.univ
 
-@[simp]
+@[simp 1100]
```
Comment (LorenzoLuccioli) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: I added this because the GitHub action threw me an error which I couldn't understand at first, so I just tried to fix something that `#lint` suggested was wrong (something about the simp normal form). The real problem turned out to be somewhere else, but this simp problem should still be fixed, can we leave it in this PR?

**Comment by LorenzoLuccioli** [comment]
Writing the comments I realized that I could separate the fact that a finite kernel applied to a set is integrable wrt a finite measure. I still left the other comments, but I'm not sure whether they are enough and if we can shorten the proof further. 
I just had an idea on how to collapse the first two `have`s (the two inequalities) in a single one, I will try to implement that now.

**Comment by LorenzoLuccioli** [comment]
Now the proof is quite shorter, do I remove the comments or should we try to reduce it even more?

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 4]
```diff
@@ -685,6 +683,217 @@ lemma fDiv_compProd_right [CountablyGenerated β]
...
+        · exact Measure.singularPart_le (κ (a, b)) (η (a, b)) Set.univ
+      _ = _ := by rw [measure_univ, ENNReal.one_toReal, mul_one]
+  have h_int2' : ∀ᵐ a ∂μ, Integrable (fun b ↦ (fDiv f (κ (a, b)) (η (a, b))).toReal) (ξ a) := by
+    filter_upwards [eventually_all.mpr h_ac, h_int, h_int2] with a ha_ae ha_int ha_int2
+    simp_rw [← kernel.snd'_apply] at ha_int2 ha_int ha_ae ⊢
+    exact (integrable_fDiv_iff ha_int ha_ae).mpr ha_int2
+  rw [integrable_congr <| condFDiv_snd'_toReal_eq_ae h_ac h_int h_int2]
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  ·
+    --using `h_le` we reduce the problem to the integrability of a sum of an integral and `f'(∞) * (ξ x) (univ)`
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]:
```suggestion
  · --using `h_le` we reduce the problem to the integrability of a sum of an integral and `f'(∞) * (ξ x) (univ)`
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 5]
```diff
@@ -685,6 +683,217 @@ lemma fDiv_compProd_right [CountablyGenerated β]
...
+    · filter_upwards [h_le, h_int2, h_int2'] with a ha_le ha_int2 ha_int2'
+      rw [norm_eq_abs, abs_eq_self.mpr <| integral_nonneg <| fun _ ↦ abs_nonneg _]
+      refine integral_mono_ae ha_int2.abs (integrable_add_const_iff.mpr ha_int2') ?_
+      filter_upwards [ha_le] with a hb_le using by linarith
+    apply Integrable.congr (f := fun a ↦ ∫ b, (fDiv f (κ (a, b)) (η (a, b))).toReal ∂ξ a
+        + ((ξ a) Set.univ).toReal * |(derivAtTop f).toReal|)
+    swap
+    · filter_upwards [h_int2'] with a ha_int2'
+      rw [integral_add ha_int2' (integrable_const _), integral_const, smul_eq_mul]
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]:
```suggestion
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 6]
```diff
@@ -685,6 +683,217 @@ lemma fDiv_compProd_right [CountablyGenerated β]
...
+    --we already know the integrability of the integral (hp `h`) and the other part is just a
+    --constant times a finite kernel applied to a fixed set, so it's easy to show that it's integrable
+    exact h.add (Integrable.kernel _ MeasurableSet.univ |>.mul_const _)
+  ·
+    --using `h_le'` we reduce the problem to the integrability of a sum of an integral and `f'(∞) * (ξ x) (univ)`
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]:
```suggestion
  · --using `h_le'` we reduce the problem to the integrability of a sum of an integral and `f'(∞) * (ξ x) (univ)`
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 7]
```diff
@@ -685,6 +683,217 @@ lemma fDiv_compProd_right [CountablyGenerated β]
...
+      rw [norm_eq_abs, abs_eq_self.mpr <| integral_nonneg <| fun _ ↦ EReal.toReal_nonneg <|
+        fDiv_nonneg hf_cvx hf_cont hf_one]
+      refine integral_mono_ae ha_int2' (integrable_add_const_iff.mpr <| ha_int2.abs) ?_
+      filter_upwards [ha_le] with a hb_le using by linarith
+    apply Integrable.congr (f := fun a ↦ ∫ b, |∫ x, f ((∂κ (a, b)/∂η (a, b)) x).toReal ∂η (a, b)|
+      ∂ξ a + ((ξ a) Set.univ).toReal * |(derivAtTop f).toReal|)
+    swap
+    · filter_upwards [h_int2] with a ha_int2
+      rw [integral_add ha_int2.abs (integrable_const _), integral_const, smul_eq_mul]
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]:
```suggestion
```

**Review by RemyDegenne — APPROVED** [review]
